### PR TITLE
Removed path number from path replacement

### PR DESCRIPTION
**Pull request by luuuwang7**

### CODE REVIEW

File: src/extensions/paths/Replacement.v [hunk 1]
```diff
@@ -105,54 +106,56 @@ Qed.
...
       named_path p ->
       named_path q ->
-      repl_dec m p q (open_rec_dec_p n r D) (open_rec_dec_p n r D')).
+      repl_dec p q (open_rec_dec_p n r D) (open_rec_dec_p n r D')).
 Proof.
   apply repl_mutind; intros;
-    try solve [unfolds open_typ_p, open_dec_p; simpls; eauto];
-    try solve [simpl; assert (numpaths U = numpaths (open_rec_typ_p n0 r0 U))
+    try solve [unfolds open_typ_p, open_dec_p; simpls; eauto].
+    (**try solve [simpl; assert (numpaths U = numpaths (open_rec_typ_p n0 r0 U))
```
Comment (amaurremi) [inline src/extensions/paths/Replacement.v]: let's just remove this code

File: src/extensions/paths/Replacement.v [hunk 2]
```diff
@@ -17,6 +17,7 @@ Hint Constructors star.
 (** The following lemmas reason about the relationship between path
     replacement and the number of paths in a type *)
 
+(*
```
Comment (amaurremi) [inline src/extensions/paths/Replacement.v]: let's remove this commented out code

File: src/extensions/paths/PreciseTyping.v [hunk 3]
```diff
@@ -1078,15 +1078,15 @@ Lemma repl_comp_sngl_inv1 : forall G T p,
...
+  inversions H. destruct_all. invert_repl. eexists. auto. 
 Qed.
 
 Lemma repl_comp_sngl_inv2 : forall G T p,
     G ⊢ T ⟿ {{ p }}->
     exists q, T = {{ q }}.
 Proof.
   introv Hr. dependent induction Hr; eauto.
-  inversions H. destruct_all. invert_repl.
+  inversions H. destruct_all. invert_repl.
```
Comment (amaurremi) [inline src/extensions/paths/PreciseTyping.v]: dangling space

File: src/extensions/paths/Replacement.v [hunk 4]
```diff
@@ -161,11 +164,9 @@ Lemma repl_star_rcd: forall p q d1 d2,
   repl_repeat_dec p q d1 d2 ->
   repl_repeat_typ p q (typ_rcd d1) (typ_rcd d2).
 Proof.
-  introv Hs. dependent induction Hs.
+  introv Hs. dependent induction Hs.
```
Comment (amaurremi) [inline src/extensions/paths/Replacement.v]: dangling space

File: src/extensions/paths/Replacement.v [hunk 5]
```diff
@@ -174,12 +175,13 @@ Ltac solve_repl_star :=
   | [ H : repl_repeat_typ _ _ _ _ |- _ ] =>
     dependent induction H
   end;
-  eauto;
+  eauto.
+(**;
```
Comment (amaurremi) [inline src/extensions/paths/Replacement.v]: let's remove this code

File: src/extensions/paths/Replacement.v [hunk 6]
```diff
@@ -510,21 +506,21 @@ Lemma repl_preserved2 : forall n p q T U1 U2 m r s,
...
-Lemma repl_prefixes_sel: forall n p q p' q' A,
-    repl_typ n p q (p' ↓ A) (q' ↓ A) ->
+Lemma repl_prefixes_sel: forall p q p' q' A,
+    repl_typ p q (p' ↓ A) (q' ↓ A) ->
     exists bs, p' = p •• bs /\ q' = q •• bs.
 Proof.
   introv Hr. inversions Hr. eauto.
 Qed.
-
+(**
```
Comment (amaurremi) [inline src/extensions/paths/Replacement.v]: let's remove this

File: src/extensions/paths/ReplacementTyping.v [hunk 7]
```diff
@@ -332,6 +331,7 @@ Proof.
     apply repl_open with (r:= r) in H1; try solve_names. apply* replacement_repl_closure_qp.
 Qed.
 
+(**
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: let's remove this

File: src/extensions/paths/ReplacementTyping.v [hunk 8]
```diff
@@ -375,25 +375,125 @@ Proof.
     apply repl_swap in Hr1.
     lets Heq: (repl_unique Hr1 Hr2). subst*.
 Qed.
+**)
+
+Lemma pf_sngl_sel_unique: forall G p q q0 r0 bs0 bs,
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: This lemma reasons about precise typing. Could we move it to `PreciseFlow.v`?

File: src/extensions/paths/ReplacementTyping.v [hunk 9]
```diff
@@ -375,25 +375,125 @@ Proof.
...
+    inert G ->
+    G ⊢! q : {{ p }} ⪼ {{ p }} ->
+    G ⊢! q0 : {{ r0 }} ⪼ {{ r0 }} ->
+    q0 •• bs0 = q •• bs ->
+    p •• bs = r0 •• bs0.
+Proof.
+  intros. destruct (sel_sub_fields _ _ _ _ H2) as [bs1 [Hl | Hl]].
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: to reduce the number of unnamed hypotheses, let's name the hypotheses at the point of `intros`. Here, we could do `introv Hi Hq Hq0 Heq`.

File: src/extensions/paths/ReplacementTyping.v [hunk 10]
```diff
@@ -375,25 +375,125 @@ Proof.
...
+     assert ({{ p }} = {{ r0 }}).
+     { eapply pf_T_unique; eauto. }
+     inversion H3. subst. apply sel_fields_equal in H2. subst. auto.   
+  -  rewrite Hl in H0. assert (bs1 = nil) as Heq.
+     { eapply pf_sngl_flds_elim with (bs:=bs1); auto. eauto. apply H1. apply H0. }
+     rewrite Heq in *. rewrite (field_sel_nil q0) in *.
+     assert ({{ p }} = {{ r0 }}).
+     { eapply pf_T_unique; eauto. }
+     inversion H3. subst. apply sel_fields_equal in H2. subst. auto.   
+Qed.
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: the two cases in this proof are almost identical so we could use some automation, e.g.
```
destruct (sel_sub_fields _ _ _ _ Heq) as [? [-> | ->]];
    [pose proof (pf_sngl_flds_elim _ Hi Hq Hq0) as ->
    | pose proof (pf_sngl_flds_elim _ Hi Hq0 Hq) as ->]; eauto;
      rewrite field_sel_nil in *;    
      apply (pf_T_unique Hi Hq) in Hq0 as [= ->];
     apply sel_fields_equal in Heq as ->; auto. 
```

File: src/extensions/paths/ReplacementTyping.v [hunk 11]
```diff
@@ -375,25 +375,125 @@ Proof.
...
+        repl_dec q p D D' ->
+    forall q0 r0 D2 G, 
+    repl_dec q0 r0 D' D2 ->
+    inert G -> 
+    G ⊢! p: {{ q }} ⪼ {{ q }} -> 
+    G ⊢! q0: {{ r0 }} ⪼ {{ r0 }} ->
+    D = D2 \/ exists D3, repl_dec q0 r0 D D3 /\ repl_dec q p D3 D2).
+Proof.
+  apply repl_mutind; intros; eauto.
+  - inversions H0. destruct (H _ _ _ _ H7 H1 H2 H3); eauto.
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: Could we use the `invert_repl` tactic instead of `inversions H0`? That way we would reduce the uses of unnamed hypotheses. Same for other cases in this lemma.

File: src/extensions/paths/ReplacementTyping.v [hunk 12]
```diff
@@ -375,25 +375,125 @@ Proof.
...
+    * left. rewrite H0. auto.
+    * right. destruct H0 as [D4 [Hl Hr]]. exists (typ_rcd D4).
+      split; eauto. 
+  - inversions H0.
+    * destruct (H _ _ _ _ H9 H1 H2 H3); eauto.
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: If we add a `subst` before the `eauto`, we could go down to one case; `subst` also allows us to avoid having to manually rewrite simple equalities since automatically rewrites all equalities for variables. Perhaps this holds for later cases as well.

**Review by amaurremi — CHANGES_REQUESTED** [review]
This is great, thank you very much for simplifying the proof! I added some minor comments, please let me know if you have any questions.

**Comment by olhotak** [comment]
Thank you, @luuuwang7 , this is great.

Also thank you @amaurremi for the suggestions to clean things up further.

Please remove the last line of Definitions.v (Ltac omega). omega is used to reason about arithmetic (e.g. n + numpaths T) and we're not doing that anymore.

I looked through the changes and aside from these suggestions, it all looks good to me and can be merged.

**Comment by olhotak** [comment]
@amaurremi pf_sngl_sel_unique depends on pf_sngl_flds_elim. Would it be possible to also move pf_sngl_flds_elim and pf_sngl_fld_elim to PreciseFlow?

**Comment by amaurremi** [comment]
Yes, you're right, moved the necessary lemmas to PreciseFlow.
